US09260408B2
[C] 6-{5-[(S)-2-(tert-Butyl-dimethyl-silanyloxymethyl)-pyrrolidin-1-yl]-pyridin-3-yl}-1-methyl-3,4-dihydro-1H-quinolin-2-one
A microwave vial was charged with 3-bromo-5-[(S)-2-(tert-butyl-dimethyl-silanyloxymethyl)-pyrrolidin-1-yl]-pyridine (0.091 g, 0.245 mmol), 1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one (intermediate A-1, 0.077 g, 0.270 mmol) and DMF (1.5 mL). The reaction mixture was purged with Argon; then, bis(triphenylphosphine)palladium(II)chloride (0.017 g, 0.025 mmol), followed by a 1N Na2CO3 aqueous solution (0.980 mL, 0.980 mmol) were added and the reaction mixture was heated in the microwave at 120° C. for 30 min. The reaction mixture was diluted with EtOAc, poured into aq. NaHCO3 (10 mL) and the aqueous layer was extracted with EtOAc (2×40 mL). Combined organics were washed with brine, dried over Na2SO4, filtered and evaporated. The residue was purified by silica gel flash chromatography eluting with a 0 to 5% MeOH-DCM gradient to give the title compound (0.1 g, 90%) as a white solid. MS: 452.1 (M+H+).

reactant | 3-bromo-5-[(S)-2-(tert-butyl-dimethyl-silanyloxymethyl)-pyrrolidin-1-yl]-pyridine | 0.245 mmol, 0.091 g | BrC=1C=NC=C(C1)N1[C@@H](CCC1)C(O[SiH2]C(C)(C)C)(C)C | C16H27BrN2OSi
reactant | 1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | 0.270 mmol, 0.077 g | CN1C(CCC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)=O | C16H22BNO3
reactant | Na2CO3 | 0.980 mmol, 1N, 0.980 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.025 mmol, 0.017 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 6-{5-[(S)-2-(tert-Butyl-dimethyl-silanyloxymethyl)-pyrrolidin-1-yl]-pyridin-3-yl}-1-methyl-3,4-dihydro-1H-quinolin-2-one | 0.1 g, 90% | C(C)(C)(C)[SiH2]OC([C@H]1N(CCC1)C=1C=C(C=NC1)C=1C=C2CCC(N(C2=CC1)C)=O)(C)C | C26H37N3O2Si
